US07199139B2
(S)-4-Benzyl-3-[(2S,3R)-2-(4-fluorophenoxy)-3-hydroxy-3-(4-hydroxyphenyl)propionyl]oxazolidin-2-one
The target compound (1.94 g) was obtained as a foam by carrying out the reaction and the post-treatment according to Reference example 20(c) using (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-2-(4-fluorophenoxy)-3-hydroxypropionyl]oxazolidin-2-one (2.33 g) obtained from Reference example 22(b) and palladium-charcoal (5%, 490 mg).

reactant | (S)-4-benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-2-(4-fluorophenoxy)-3-hydroxypropionyl]oxazolidin-2-one | 2.33 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=C(C=C1)F)=O | C32H28FNO6
catalyst | palladium-charcoal | 490 mg | [Pd] | Pd
product | (S)-4-Benzyl-3-[(2S,3R)-2-(4-fluorophenoxy)-3-hydroxy-3-(4-hydroxyphenyl)propionyl]oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@@H](C1=CC=C(C=C1)O)O)OC1=CC=C(C=C1)F)=O | C25H22FNO6
